US05658587
Methyl 3-methyl-2-(2,2-dimethylpropanoyl)benzoate.
Pivaloyl chloride is added dropwise at 10°-15° C. to a stirred mixture of methyl 2-hydroxy-3-methylbenzoate and 4-dimethylaminopyridine in 25 ml of dichloromethane. After 2 hours at room temperature, the reaction is quenched with 200 ml of water. The organic layer is washed with 5% sodium bicarbonate, dried on anhydrous sodium sulfate and evaporated in vacuo. The product is purified by flash chromatography on silica gel.

reactant | Pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | methyl 2-hydroxy-3-methylbenzoate | OC1=C(C(=O)OC)C=CC=C1C | C9H10O3
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | Methyl 3-methyl-2-(2,2-dimethylpropanoyl)benzoate | CC=1C(=C(C(=O)OC)C=CC1)C(C(C)(C)C)=O | C14H18O3
